US07531692B2
Diethyl azodicarboxylate (370 μL, 2.4 mmoles) is added to a solution of 200 mg of 1-(2-fluoro-4′-hydroxy-biphenyl-4-yl)-cyclopropanecarboxylic acid (0.8 mmoles), triphenyl phosphine (623 mg, 2.4 mmoles) and 4-trifluoromethyl cyclohexanol (400 mg, 2.4 mmoles) in dry THF (3 mL) at 0° C. under nitrogen atmosphere. The resulting clear orange solution is left under stirring overnight, then quenched with water and extracted with ethyl acetate. The organic phase is washed with 10% w/v HCl solution, dried on Na2SO4 and evaporated. Purification by chromatography on silica gel by eluting with methylene chloride:methanol 98:2 v/v furnishes 1-[2-fluoro-4′-(4-trifluoromethyl-cyclohexyloxy)-biphenyl-4-yl]-cyclopropanecarboxylic acid as a white solid.

reactant | Diethyl azodicarboxylate | 2.4 mmoles, 370 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-(2-fluoro-4′-hydroxy-biphenyl-4-yl)-cyclopropanecarboxylic acid | 0.8 mmoles, 200 mg | FC1=C(C=CC(=C1)C1(CC1)C(=O)O)C1=CC=C(C=C1)O | C16H13FO3
reactant | triphenyl phosphine | 2.4 mmoles, 623 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-trifluoromethyl cyclohexanol | 2.4 mmoles, 400 mg | FC(C1CCC(CC1)O)(F)F | C7H11F3O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-[2-fluoro-4′-(4-trifluoromethyl-cyclohexyloxy)-biphenyl-4-yl]-cyclopropanecarboxylic acid | Yield: 26% | FC1=C(C=CC(=C1)C1(CC1)C(=O)O)C1=CC=C(C=C1)OC1CCC(CC1)C(F)(F)F | C23H22F4O3
